US08247441B2
Preparation 1: Methyl trans-{4-[(tert-butoxycarbonyl)amino]cyclohexyl}acetate
To a mixture of 3.03 g of ethyl trans-(4-amino-cyclohexyl)acetate (17.7 mmol), obtained in 7 steps starting from bicyclo[2.2.2]oct-5-ene-2-carbonitrile, and 4.25 g of di-tert-butyl dicarbonate (19.54 mmol) in 60 ml of dichloromethane there are added 6.2 ml of triethylamine. The mixture is stirred for 2 hours at ambient temperature. 50 ml of saturated sodium bicarbonate solution are added. The solution is extracted with 3×20 ml of dichloromethane, washed with brine, dried (MgSO4) and evaporated to yield the title product in the form of a white powder.

reactant | ethyl trans-(4-amino-cyclohexyl)acetate | 17.7 mmol, 3.03 g | N[C@@H]1CC[C@H](CC1)CC(=O)OCC | C10H19NO2
reactant | bicyclo[2.2.2]oct-5-ene-2-carbonitrile | C12C(CC(C=C1)CC2)C#N | C9H11N
reactant | di-tert-butyl dicarbonate | 19.54 mmol, 4.25 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | triethylamine | 6.2 ml | C(C)N(CC)CC | C6H15N
product | Methyl trans-{4-[(tert-butoxycarbonyl)amino]cyclohexyl}acetate | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)CC(=O)OC | C14H25NO4
